* AD8561 SPICE Macro-Model Typical Values
* 4/98, Ver. 1.0
* TAM / ADSC
*
* Node assignments
*		non-inverting input
*		|	inverting input
*		|	|	positive supply
*		|	|	|	negative supply
*		|	|	|	|	Latch
*		|	|	|	|	|	DGND
*		|	|	|	|	|	|	Q
*		|	|	|	|	|	|	|	QNOT
*		|	|	|	|	|	|	|	|
.SUBCKT AD8561	1	2	99	50	80	51	45	65
*
* INPUT STAGE
*
*
Q1     4  3 5 PIX
Q2     6  2 5 PIX
IBIAS 99  5 800E-6
RC1    4 50 1E3
RC2    6 50 1E3
CL1    4  6 1E-12
CIN    1  2 3E-12
VCM1  99  7 1
D1     5  7 DX
EOS    3  1 POLY(1) (31,98) 1E-3 1
*
* Reference Voltage
*
EREF 98 0 POLY(2) (99,0) (50,0) 0 0.5 0.5
RREF 98 0 100E3
*
* CMRR=80dB, ZERO AT 1kHz
*
ECM1 30 98 POLY(2) (1,98) (2,98) 0 0.5 0.5
RCM1 30 31 10E3
RCM2 31 98 1
CCM1 30 31 15.9E-9
*
* Latch Section
*
RX 80 51 100E3
E1 10 98 (4,6) 1
S1 10 11 (80,51) SLATCH1
R2 11 12 1
C3 12 98 10E-12
E2 13 98 (12,98) 1
R3 12 13 500
*
* Power Supply Section
*
GSY1 99 52 POLY(1) (99,50) 4E-3 -2.6E-4
GSY2 52 50 POLY(1) (99,50) 3.7E-3 -.6E-3
RSY  52 51 10
*
* Gain Stage Av=250 fp=100MHz
*
G2 98 20 (12,98) 0.25
R1 20 98 1000
C1 20 98 10E-13
D2 20 21 DX
D3 22 20 DX
V1 99 21 DC 0.8
V2 22 50 DC 0.8
*
* Q Output
*
Q3  99 41 46 NOX
Q4  47 42 50 NOX
RB1 43 41 200
RB2 40 42 5E3
CB1 99 41 10E-12
CB2 42 50 5E-12
RO1 46 45 2E3
RO2 47 45 500
EO1 98 43 POLY(1) (20,98) 0 1
EO2 40 98 POLY(1) (20,98) 0 1
*
* Q NOT Output
*
Q5  99 61 66 NOX
Q6  67 62 50 NOX
RB3 63 61 200
RB4 60 62 5E3
CB3 99 61 10E-12
CB4 62 50 5E-12
RO3 66 65 2E3
RO4 67 65 500
EO3 63 98 POLY(1) (20,98) 0 1
EO4 98 60 POLY(1) (20,98) 0 1
*
* MODELS
*
.MODEL PIX PNP(BF=100,IS=1E-16)
.MODEL NOX NPN(BF=100,VAF=130,IS=1E-14)
.MODEL DX D(IS=1E-16)
.MODEL SLATCH1 VSWITCH(ROFF=1E6,RON=500,VOFF=2.1,VON=1.4)
.ENDS AD8561
